US07511146B2
4′-[4-(5,6-Dichloro-1H-benzoimidazol-2-yloxymethyl)-1-methanesulfonyl-piperidin-4-yl]-biphenyl-3-carbonitrile, 56
To a solution of 0.044 g of crude 4′-{4-[5,6-dichloro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yloxymethyl]-1-methanesulfonyl-piperidin-4-yl}-biphenyl-3-carbonitrile from the previous step (˜0.05 mmol) in 2 mL of tetrahydrofuran was added tetrabutylammonium fluoride (1M in THF, 0.1 mL, 0.1 mmol, 2 eq) and the resulting mixture was heated to 60° C. for 18 h. After cooling to room temperature, the reaction mixture was diluted with 10 mL of ethyl acetate and washed with H2O and saturated brine. The organic extracts were combined and dried over Na2SO4, filtered and concentrated by rotary evaporation to give the crude product as a pale foam. Purification by flash silica gel chromatography eluting with a gradient of 20-70% ethyl acetate in hexane gave a pale foam which was re-purified by reverse phase preparative HPLC to yield 0.016 g of the desired product 4′-[4-(5,6-dichloro-1H-benzoimidazol-2-yloxymethyl)-1-methanesulfonyl-piperidin-4-yl]-biphenyl-3-carbonitrile 56 as a white foam. 1H NMR (300 MHz, CDCl3): δ 7.84-7.83 (t, 1H), 7.80-7.77 (dt, 1H), 7.66-7.44 (m, 8H), 4.54 (s, 2H), 3.64-3.40 (d, 2H), 3.02-2.95 (t, 2H), 2.74 (s, 3H), 2.60 (br. s, 1H), 2.47-2.43 (d, 2H), 2.22-2.12 (t, 2H). MS (ESI): Calcd m/z for C27H24Cl2N4O3S.H+=554.1. Found m/z=554.6/556.7 [(M+1)+/(M+3)+].

reactant | 4′-{4-[5,6-dichloro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yloxymethyl]-1-methanesulfonyl-piperidin-4-yl}-biphenyl-3-carbonitrile | 0.044 g | ClC1=CC2=C(NC(=N2)OC(COCC[Si](C)(C)C)C2(CCN(CC2)S(=O)(=O)C)C2=CC=C(C=C2)C2=CC(=CC=C2)C#N)C=C1Cl | C33H38Cl2N4O4SSi
reactant | tetrabutylammonium fluoride | 0.1 mmol, 1M, 0.1 mL, 2 eq | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4′-[4-(5,6-Dichloro-1H-benzoimidazol-2-yloxymethyl)-1-methanesulfonyl-piperidin-4-yl]-biphenyl-3-carbonitrile | 0.016 g | ClC1=CC2=C(NC(=N2)OCC2(CCN(CC2)S(=O)(=O)C)C2=CC=C(C=C2)C2=CC(=CC=C2)C#N)C=C1Cl | C27H24Cl2N4O3S
